US07399759B2
N-[[6-(4-Oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]methyl]acetamide
2-[6-(Aminomethyl)-2-pyridyl]-4H-1,3-benzothiazine-4-one trifluoroacetic acid salt (350 mg, 0.91 mmol) was dissolved in N,N-dimethylacetamide (10 ml), and acetyl chloride (150 mg, 1.91 mmol) was added thereto. The reaction mixture was stirred at 60° C. for 3 hrs and combined with ethyl acetate, tetrahydrofuran and water. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was subjected to a silica gel column chromatography. The fractions eluted with methanol-ethyl acetate (1:10, v/v) were collected, concentrated and recrystallized from methanol-diisopropyl ether to give the titled compound (81 mg, 28%) as white crystals.

reactant | 2-[6-(Aminomethyl)-2-pyridyl]-4H-1,3-benzothiazine-4-one trifluoroacetic acid salt | 0.91 mmol, 350 mg | FC(C(=O)O)(F)F.NCC1=CC=CC(=N1)C=1SC2=C(C(N1)=O)C=CC=C2
reactant | acetyl chloride | 1.91 mmol, 150 mg | C(C)(=O)Cl | C2H3ClO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | N,N-dimethylacetamide | 10 ml | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | N-[[6-(4-Oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]methyl]acetamide | 81 mg, 28% | O=C1N=C(SC2=C1C=CC=C2)C2=CC=CC(=N2)CNC(C)=O | C16H13N3O2S
